US07985769B2
To a solution of 3-Isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester (136 mg, 0.50 mmol) in 1,2-dichloroethane (1.0 ml) was added (1R,2S,4R)-2-Acetoxy-4-methyl-cyclohexanecarboxylic acid chloride (119 mg, 0.54 mmol) dissolved in 1,2-dichloroethane (0.6 ml) followed by PPh3 (136 mg, 0.52 mmol). The resulting solution was stirred for 20 h at 90° C. and then cooled to room temperature. It was then diluted with ethyl acetate (10 ml) and a solution of saturated NaHCO3 (10 ml). The aqueous phase was separated and washed with ethyl acetate (2×10 ml) and the combined organic layers were dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0% to 25% EtOAc/Hexane) to obtain 110 mg (45%) of (1R,2S,4R)-3-[Isopropyl-(2-Acetoxy-4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester. NMR 1H (CDCl3, 400 MHz): 1.5:1.0 mixture of rotamers 7.73-7.70 ppm (m, 2H, Haro); 7.69-7.63 ppm (m, 1H, Haro); 7.51-7.41 ppm (m, 4H, Haro); 7.13 ppm (s, 0.6H, Haro, major rotamer); 5.79 ppm (s, 0.4H, minor rotamer); 5.21 ppm (s, 0.6H, major rotamer); 4.95-4.88 ppm (m, 1H); 3.88 ppm (s, 1.8H, major rotamer); 3.87 ppm (s, 1.2H, minor rotamer); 2.40-2.36 ppm (m, 0.6H, major rotamer); 2.11 ppm (s, 3H); 1.78-0.77 ppm (m, 16H).

reactant | 3-Isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.50 mmol, 136 mg | COC(=O)C=1SC(=CC1NC(C)C)C1=CC=CC=C1 | C15H17NO2S
reactant | (1R,2S,4R)-2-Acetoxy-4-methyl-cyclohexanecarboxylic acid chloride | 0.54 mmol, 119 mg | C(C)(=O)O[C@@H]1[C@@H](CC[C@H](C1)C)C(=O)Cl | C10H15ClO3
reactant | PPh3 | 0.52 mmol, 136 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 1.0 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 0.6 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (1R,2S,4R)-3-[Isopropyl-(2-Acetoxy-4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 110 mg, 45% | COC(=O)C=1SC(=CC1N(C(=O)[C@H]1[C@H](C[C@@H](CC1)C)OC(C)=O)C(C)C)C1=CC=CC=C1 | C25H31NO5S
